US07081458B2
A 2.0M solution of trimethylaluminum (0.39 ml, 0.78 mmol, 3.5 equivalents) was added to a solution of 5-(3,4-dimethoxy-phenyl)-thiomorpholine-3-carboxylic acid methyl ester (67 mg, 0.22 mmol, 1.0 equivalents) and 4-chloro-3-methoxyaniline (106 mg, 0.68 mmol, 3.0 equivalents). The solution was stirred at 50° C. for 18 hours. The reaction was quenched with 1N NaOH and extracted with dichloromethane. The dichloromethane extracts were dried with MgSO4, filtered and concentrated. The residue was purified on a 1000 micron preparative TLC. 5-(3,4-Dimethoxy-phenyl)-thiomorpholine-3-carboxylic acid (4-chloro-3-methoxy-phenyl)-amide was obtained as a peach solid (71 mg, 76% yield). Analysis H1 NMR (400 MHz, CDCl3): 8.61 (1H, s), 7.58 (1H, m), 7.26 (1H, m), 6.90 (2H, m), 6.78 (1H, d), 4.04 (1H, m), 3.91 (10H, m), 2.98 (1H, m), 2.78 (2H, m), 2.59 (1H, m). MS (LC-MS): Calculated for C20H23ClN2O4S 423.11, found 423.22.

reactant | trimethylaluminum | 0.78 mmol, 0.39 ml, 3.5 equivalents | C[Al](C)C
reactant | 5-(3,4-dimethoxy-phenyl)-thiomorpholine-3-carboxylic acid methyl ester | 0.22 mmol, 67 mg, 1.0 equivalents | COC(=O)C1NC(CSC1)C1=CC(=C(C=C1)OC)OC | C14H19NO4S
reactant | 4-chloro-3-methoxyaniline | 0.68 mmol, 106 mg, 3.0 equivalents | ClC1=C(C=C(N)C=C1)OC | C7H8ClNO
product | 5-(3,4-Dimethoxy-phenyl)-thiomorpholine-3-carboxylic acid (4-chloro-3-methoxy-phenyl)-amide | ClC1=C(C=C(C=C1)NC(=O)C1NC(CSC1)C1=CC(=C(C=C1)OC)OC)OC | C20H23ClN2O4S
